US04621084
5-(3-Methylimidazo[1,2-a]pyridin-2-yl)-2-benzoxazolinone (0.9 g) was prepared in substantially the same manner as that of Example 30 from 5-(2-bromopropionyl)-2-benzoxazolinone (2.7 g) and 2-aminopyridine (2.8 g). mp. 296°-298° C. (dec.).

reactant | 5-(2-bromopropionyl)-2-benzoxazolinone | 2.7 g | BrC(C(=O)C=1C=CC2=C(NC(O2)=O)C1)C | C10H8BrNO3
reactant | 2-aminopyridine | 2.8 g | NC1=NC=CC=C1 | C5H6N2
product | 5-(3-Methylimidazo[1,2-a]pyridin-2-yl)-2-benzoxazolinone | 0.9 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(NC(O1)=O)C2 | C15H11N3O2
